US09034880B2
Preparation of 2-(4-(trifluoromethyl)phenyl)-2,3,4,5-tetrahydro-8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 288)
The title compound is prepared from a mixture of 2-(4-(trifluoromethyl)phenyl)-2,3,4,5-tetrahydro-8-methyl-1H-pyrido[4,3-b]indole, 2-methyl-5-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2-(4-(trifluoromethyl)phenyl)-2,3,4,5-tetrahydro-8-methyl-1H-pyrido[4,3-b]indole | FC(C1=CC=C(C=C1)N1CC2=C(NC=3C=CC(=CC23)C)CC1)(F)F | C19H17F3N2
reactant | 2-methyl-5-vinylpyridine | CC1=NC=C(C=C1)C=C | C8H9N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2-(4-(trifluoromethyl)phenyl)-2,3,4,5-tetrahydro-8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole | FC(C1=CC=C(C=C1)N1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C)CC1)(F)F | C27H26F3N3
